US09062032B2
By using 1.0 g of tert-butyl(2-bromoethyl)carbamate, 2.5 mL of pentan-3-amine, and 10 mL of acetonitrile as starting materials, the reaction similar to Preparation Example 9 was performed, thereby obtaining 890 mg of tert-butyl[2-(pentan-3-ylamino)ethyl]carbamate.

reactant | tert-butyl(2-bromoethyl)carbamate | 1.0 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
reactant | pentan-3-amine | 2.5 mL | CCC(CC)N | C5H13N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-butyl[2-(pentan-3-ylamino)ethyl]carbamate | 890 mg | C(C)(C)(C)OC(NCCNC(CC)CC)=O | C12H26N2O2
